US08222419B2
Production of 2-Bromo-6H-dibenz[b,e]oxepin-11-one
Trifluoroacetic anhydride (56.0 mL, 400 mmol) was added dropwise to a dichloromethane (500 mL) solution of 2-(4-bromophenoxymethyl)benzoic acid (112 g, 364 mmol) at room temperature. The mixture was stirred at room temperature for 2 hour, BF3.OEt2 (10 mL, 169.3 mmol) was then added thereto, and the mixture was stirred at room temperature for additional 2 hours. The reaction mixture was washed with a saturated aqueous sodium bicarbonate solution, and then with a saturated sodium chloride solution, the washed mixture was then dried over anhydrous sodium sulfate, and the solvents were distilled off under a reduce pressure. The residue was purified by column chromatography (hexane-ethyl acetate=3:2), to give 96.0 g (91%) of the captioned compound in the form of crystals.

reactant | Trifluoroacetic anhydride | 400 mmol, 56.0 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(4-bromophenoxymethyl)benzoic acid | 364 mmol, 112 g | BrC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1 | C14H11BrO3
reactant | BF3.OEt2 | 169.3 mmol, 10 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 2-Bromo-6H-dibenz[b,e]oxepin-11-one | 96.0 g, 91% | BrC1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C14H9BrO2
